US07572801B2
Sodium ethanolate (0.836 g, 12 mmol) was added under cooling (0° C.) to a solution of 4-fluorobenzyl triphenylphosphonium chloride ([3462-95-1], 5.00 g, 12 mmol) in ethanol, and the mixture was stirred for 45min at r.t. Ethyl levulinate ([539-88-8], 1.77 g, 12 mmol) was added, and the light-orange mixture was refluxed (36 h). After the usual workup, 5-(4-fluoro-phenyl)-4-methyl-pent-4-enoic acid ethyl ester was obtained by column chromatography (silica gel, ethyl acetate/hexane) from the reaction mixture. MS: m/e=237.1 [M+H+].

reactant | Sodium ethanolate | 12 mmol, 0.836 g | C(C)[O-].[Na+]
reactant | 4-fluorobenzyl triphenylphosphonium chloride | 12 mmol, 5.00 g | [Cl-].FC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | Ethyl levulinate | 12 mmol, 1.77 g | C(CCC(=O)C)(=O)OCC | C7H12O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-fluoro-phenyl)-4-methyl-pent-4-enoic acid ethyl ester | C(C)OC(CCC(=CC1=CC=C(C=C1)F)C)=O | C14H17FO2
